US08067447B2
3-(1H-Indazol-5-yl)-2-methyl-3-phenyl-N-(1,3,4-thiadiazol-2-yl)propanamide
Example 151 was prepared from 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid (40 mg, 0.26 mmol) and 1,3,4-thiadiazol-2-amine using General Coupling Method A to give 6 mg (42% yield). MS found: (M+H)+=364. 400 MHz 1H-NMR (CDCl3) δ 8.77 (s, 1H); 7.90 (s, 1H); 7.75 (s, 1H); 7.75 (s, 1H); 7.47 (m, 4H); 7.36 (app t, 2H); 7.25 (dd, 2H); 4.35 (d, 1H); 3.87 (m, 1H); 1.31 (d, 3H).

reactant | 3-(1H-indazol-5-yl)-2-methyl-3-phenylpropanoic acid | 0.26 mmol, 40 mg | N1N=CC2=CC(=CC=C12)C(C(C(=O)O)C)C1=CC=CC=C1 | C17H16N2O2
reactant | 1,3,4-thiadiazol-2-amine | S1C(=NN=C1)N | C2H3N3S
product | 3-(1H-Indazol-5-yl)-2-methyl-3-phenyl-N-(1,3,4-thiadiazol-2-yl)propanamide | 42% yield | N1N=CC2=CC(=CC=C12)C(C(C(=O)NC=1SC=NN1)C)C1=CC=CC=C1 | C19H17N5OS
